US08003651B2
A solution of 4-tert-butyl 1-methyl 2-(4-chlorophenyl)succinate (14.3 g, 47.7 mmol) in DCM (75 mL) was treated with neat TFA (75 mL) at room temperature. The mixture was stirred for five hours to completion, after which the reaction mixture was concentrated and dried in vacuo overnight to afford a white solid. The solid was suspended in toluene (160 mL), cooled to 0° C., and treated successively with diphenylphosphoryl azide (11.2 mL, 52.1 mmol) and triethylamine (13.2 mL, 94.7 mmol). The reaction mixture (homogeneous) was allowed to warm to room temperature and stirred for four hours to completion. The solution was quenched with 1% citric acid solution and extracted with EtOAc (3×). The combined organics were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo to give a light brown oil. The crude azide was dissolved in tert-butanol (160 mL), treated with neat SnCl4 (1.0M solution, 2.37 mL, 2.37 mmol), and carefully heated to 90° C. with evolution of nitrogen. The mixture was stirred at 90° C. for 2.5 hours and cooled to room temperature. The solution was quenched with saturated NaHCO3 solution and then concentrated. The oily mixture was extracted with EtOAc (3×), and the combined organics were washed with brine, dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by on silica gel (4:1 hexanes:EtOAc) to afford the methyl 3-(tert-butoxycarbonylamino)-2-(4-chlorophenyl)propanoate as a pale yellow oil (11.7 g, 79%). 1H NMR (CDCl3, 400 MHz) δ 7.31 (d, J=8.0 Hz, 2H), 7.20 (d, J=8.0 Hz, 2H), 4.86 (br s, 1H), 3.88 (m, 1H), 3.69 (s, 3H), 3.58 (m, 1H), 3.49 (m, 1H), 1.42 (s, 9H).

reactant | 4-tert-butyl 1-methyl 2-(4-chlorophenyl)succinate | 47.7 mmol, 14.3 g | ClC1=CC=C(C=C1)C(C(=O)OC)CC(=O)OC(C)(C)C | C15H19ClO4
reactant | TFA | 75 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | diphenylphosphoryl azide | 52.1 mmol, 11.2 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 94.7 mmol, 13.2 mL | C(C)N(CC)CC | C6H15N
reactant | azide | [N-]=[N+]=[N-]
reactant | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
solvent | tert-butanol | 160 mL | C(C)(C)(C)O | C4H10O
catalyst | SnCl4 | 2.37 mmol, 1.0M, 2.37 mL | Cl[Sn](Cl)(Cl)Cl
product | methyl 3-(tert-butoxycarbonylamino)-2-(4-chlorophenyl)propanoate | 11.7 g, 79% | C(C)(C)(C)OC(=O)NCC(C(=O)OC)C1=CC=C(C=C1)Cl | C15H20ClNO4
